US05843942
Borane-tetrahydrofuran complex (2.7 mL of a 1.0M solution in THF) was added over 5 minutes to a solution of ethyl 4-[N-(3-benzyloxy-2-thienoyl)-N-(ethyl)amino]benzoate (1.0 g) in THF (10 mL). The reaction mixture was stirred at ambient temperature for 15 minutes and then heated under reflux for 1 hour. An excess of aqueous 2N HCl was added to the cooled reaction mixture which was evaporated to dryness. The residue was made basic by the addition of aqueous potassium carbonate solution and this was extracted with diethyl ether (50 mL). The ether extract was washed with brine and dried over MgSO4. The oil obtained on removal of the solvent was subjected to chromatography on silica eluting with dichloromethane to give ethyl 4-[N-(3-benzyloxy-2-thienylmethyl)-N-(ethyl)amino]benzoate as an oil in 32% yield.

reactant | ethyl 4-[N-(3-benzyloxy-2-thienoyl)-N-(ethyl)amino]benzoate | 1.0 g | C(C1=CC=CC=C1)OC1=C(SC=C1)C(=O)N(CC)C1=CC=C(C(=O)OCC)C=C1 | C23H23NO4S
reactant | HCl | 2N | Cl | ClH
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | ethyl 4-[N-(3-benzyloxy-2-thienylmethyl)-N-(ethyl)amino]benzoate | 32% yield | C(C1=CC=CC=C1)OC1=C(SC=C1)CN(CC)C1=CC=C(C(=O)OCC)C=C1 | C23H25NO3S
